US07994185B2
Step D: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (1.00 g, 2.26 mmol), NBS (0.423 g, 2.38 mmol) and tetrahydro-3-furancarbothioamide (0.386 g, 2.94 mmol) the title compound of Step D was obtained as an orange solid (890 mg, 1.42 mmol, 62.6% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.94 (s, 1H), 8.56 (d, J=5.5 Hz, 1H), 7.59-7.83 (m, 1H), 7.40-7.55 (m, 2H), 7.33 (t, J=7.8 Hz, 1H), 7.24 (t, J=9.1 Hz, 2H), 6.87 (d, J=5.3 Hz, 1H), 3.98-4.09 (m, 1H), 3.71-3.99 (m, 4H), 2.35-2.48 (m, 1H), 2.09-2.28 (m, 1H). MS (ESI) 553.03 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 2.26 mmol, 1.00 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 2.38 mmol, 0.423 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tetrahydro-3-furancarbothioamide | 2.94 mmol, 0.386 g | O1CC(CC1)C(N)=S | C5H9NOS
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-3-furanyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1COCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H16ClF3N4O3S2
